US08975264B2
Step 1: Preparation of 3-(3,4-methylenedioxyphenyl)-7-phenyl-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one (Chemical Formula 33)
3-Methyl-4-(3,4-methylenedioxyphenyl)-1H-pyrazol-5-amine (300 mg) and ethyl 3-phenyl-3-oxopropanoate (318 mg) are stirred overnight in a pyridine (10 mL) solvent at 95° C. After cooling to room temperature, the reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure 330 mg of the target compound is yielded by column chromatography.

reactant | 3-Methyl-4-(3,4-methylenedioxyphenyl)-1H-pyrazol-5-amine | 300 mg | CC1=NNC(=C1C1=CC2=C(C=C1)OCO2)N | C11H11N3O2
reactant | ethyl 3-phenyl-3-oxopropanoate | 318 mg | C1(=CC=CC=C1)C(CC(=O)OCC)=O | C11H12O3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3,4-methylenedioxyphenyl)-7-phenyl-2-methylpyrazolo[1,5-a]pyrimidin-5(4H)-one | C1OC=2C=C(C=CC2O1)C=1C(=NN2C1NC(C=C2C2=CC=CC=C2)=O)C | C20H15N3O3
